### PR TITLE
feat(Query): query complexity framework with sorting examples

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds a `FreeM`-based framework for proving upper and lower bounds on query complexity. It incorporates and preserves the history of the earlier work in #372, together with subsequent design and review contributions discussed in the [CSLib Algorithm frameworks thread](https://leanprover.zulipchat.com/#narrow/channel/513188-CSLib/topic/Algorithm.20frameworks.20.28TimeM.2C.20cslib.23372.2C.20cslib.23376.29).

A program is represented directly as `FreeM F α`, where `F : Type u → Type v` maps each query to its response type. The program is constructed independently of an oracle; evaluation supplies oracle responses only through lifted queries, while allowing later queries to depend on earlier responses.

The framework provides three universe-polymorphic interpreters, defined through `FreeM.liftM`:

- `FreeM.eval` evaluates a query program against an oracle.
- `FreeM.countQueries` counts the queries made along the oracle-determined execution path.
- `FreeM.cost` assigns query-dependent weights in an arbitrary additive monoid.

Pure computation is uncharged: costs attach only to lifted queries, so the interpreters measure query complexity. Counting is structural, derived from the program tree, rather than relying on trusted annotations as in a `TimeM`-style analysis. The `FreeM` module docstring includes a short recipe for setting up a new query type.

A caveat is that only operations represented by `FreeM.lift` are counted. If the intended oracle can be reconstructed from structure otherwise available to the program—for example, if its answers are determined by laws and computable using ordinary Lean definitions—an implementation may reimplement the oracle internally and avoid counted calls. The model is therefore strongest when oracle operations remain abstract. Parametric problems are less vulnerable: for example, an algorithm uniform over an arbitrary ring, with ring operations exposed only through `ArithQuery`, cannot generally reproduce those operations without issuing the corresponding queries. Parametricity alone is not sufficient if the same operations are also available directly through typeclass instances or other definitions.

### Bounds and general lower-bound theorem

`UpperBound` and `LowerBound` express query bounds quantified over oracles. `UpperBound.of_pointwise` derives an upper bound from a per-input count bound and monotonicity of the bound function, and `LowerBound.le_upperBound` shows that a lower bound for a program never exceeds an upper bound for it.

The central combinatorial result is `FreeM.exists_countQueries_ge_clog`: if

- every query response type is finite and has cardinality at most `r`, and
- `n` oracles produce distinct results from a fixed program,

then some oracle forces the program to make at least `⌈log_r n⌉` queries.

The proof works directly on `FreeM`, without a separate fixed-response `QueryTree` datatype.

### Sorting

The PR defines comparison queries `LEQuery`, a correctness specification `IsSort`, and query implementations of insertion sort and merge sort mirroring `List.insertionSort` and `List.mergeSort` exactly: `eval_insertionSort` and `eval_mergeSort` identify each program, evaluated against any oracle, with the corresponding standard-library function, so correctness (permutation, sortedness, and, for merge sort, stability) transfers from the existing API rather than being reproved. `IsSort.eval_eq` shows the specification pins down the behaviour: under any oracle implementing an antisymmetric total transitive relation, all correct comparison sorts produce the same output.

Proved bounds:

- insertion sort makes at most `n * (n - 1) / 2` queries, a bound attained by the all-`false` oracle, with `n²` as a corollary;
- merge sort makes at most `n * ⌈log₂ n⌉` queries;
- every correct comparison sort on an infinite type has worst-case query complexity at least `⌈log₂(n!)⌉`, by constructing `n!` hidden total orders with distinct sorted outputs and applying the general `FreeM` lower-bound theorem;
- comparing merge sort's two bounds via `LowerBound.le_upperBound` yields the arithmetic fact `⌈log₂(n!)⌉ ≤ n * ⌈log₂ n⌉` with no further work.

### Weighted-cost example

The arithmetic example demonstrates query-dependent costs using naive complex multiplication and Gauss's trick:

- naive multiplication has exact cost `4 * c_mul + 2 * c_add`;
- Gauss's trick has exact cost `3 * c_mul + 5 * c_add`;
- Gauss's trick is no more expensive exactly when `3 * c_add ≤ c_mul`.

### Upstream mirrors

Three general-purpose results are proposed upstream and kept `private` here until they land: `List.mergeSort_append` (https://github.com/leanprover/lean4/pull/14995), `Function.Injective.extend_of_disjoint` together with its `extend_sum_inl_inr` corollary (https://github.com/leanprover-community/mathlib4/pull/43325), and the `Std.Total (InvImage r f)` instance (https://github.com/leanprover-community/mathlib4/pull/43326).

### Files

| File | Contents |
|------|----------|
| `Query/FreeM.lean` | Evaluation, query counting, weighted costs, the general lower-bound theorem, and the query-type recipe |
| `Query/Bounds.lean` | `UpperBound`, `LowerBound`, `of_pointwise`, `le_upperBound` |
| `Query/Arith/{Defs,Lemmas}.lean` | Parametric arithmetic costs and complex-multiplication example |
| `Query/Sort/LEQuery.lean` | Boolean comparison queries and their response-cardinality facts |
| `Query/Sort/IsSort.lean` | Correctness specification for comparison sorts and output uniqueness |
| `Query/Sort/Insertion/{Defs,Lemmas}.lean` | Insertion sort, agreement with `List.insertionSort`, triangular bound |
| `Query/Sort/Merge/{Defs,Lemmas}.lean` | Merge sort, agreement with `List.mergeSort`, `n * ⌈log₂ n⌉` bound |
| `Query/Sort/Merge/Bounds.lean` | Combined merge sort bounds and the `⌈log₂(n!)⌉ ≤ n * ⌈log₂ n⌉` corollary |
| `Query/Sort/LowerBound.lean` | `⌈log₂(n!)⌉` comparison-sorting lower bound |
| `CslibTests/Query.lean` | Executable checks and API examples |

### CODE REVIEW

File: Cslib/Algorithms/Lean/Query/Prog.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
+/-
+Copyright (c) 2026 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sorrachai Yingchareonthawornchai, Kim Morrison, Sebastian Graf, Shreyas Srinivas
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/Prog.lean]: Sorrachai is not an author on this file, only on the TimeM files. Further on all prog files I am first author

**Review by Shreyas4991 — APPROVED** [review]
Please check author lists. 

I didn't intend to GitHub-approve it. I wanted to click "Comment"

File: Cslib/Algorithms/Lean/Query/Arith/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
+/-
+Copyright (c) 2026 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kim Morrison
+-/
+module
+
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/Arith/Defs.lean:7]: This is the Arith Prog from my CslibTests files?

**Review by Shreyas4991 — COMMENTED** [review]
Thus arith query is similar to mine in the the CslibTests folder

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,41 @@
...
+-/
+
+open Cslib.Query
+
+public section
+
+namespace Cslib.Query
+
+/-- Insert `x` into a sorted list using comparison queries. -/
+@[expose] def orderedInsert (x : α) : List α → Prog (LEQuery α) (List α)
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: This is identical to the Prog version upto query type.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean [hunk 4]
```diff
@@ -0,0 +1,168 @@
...
+    ((insertionSort xs).eval oracle).Pairwise r := by
+  induction xs with
+  | nil => simp
+  | cons x xs ih =>
+    simp only [eval_insertionSort_cons]
+    exact orderedInsert_sorted r oracle horacle x _ ih
+
+-- ## Query count proofs
+
+theorem orderedInsert_queriesOn_le (oracle : {ι : Type} → LEQuery α ι → ι)
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean]: You oracle is just my Model.evalQuery. Likewise for time.

File: Cslib/Algorithms/Lean/Query/Sort/LowerBound.lean [hunk 5]
```diff
@@ -0,0 +1,214 @@
...
+  | _, .le a b => f (a, b)
+
+@[simp] theorem fromQTOracle_le (f : (α × α) → Bool) (a b : α) :
+    fromQTOracle f (.le a b) = f (a, b) := rfl
+
+@[simp] theorem toQTOracle_fromQTOracle (f : (α × α) → Bool) :
+    toQTOracle (fromQTOracle f) = f := rfl
+
+/-- Convert a `Prog (LEQuery α)` program to a `QueryTree (α × α) Bool` decision tree. -/
+@[expose] def Prog.toQueryTree : Prog (LEQuery α) β → QueryTree (α × α) Bool β
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/Sort/LowerBound.lean]: This is essentially traceSort from cslib#372

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,94 @@
+/-
+Copyright (c) 2026 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sorrachai Yingchareonthawornchai, Kim Morrison
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean]: The authorship claims on this file go to an equal extent for me and Sorrachai. We both use a different recursive structure and I provide the Prog version of his code. Since the recursion structure is different here (and more akin to the upstream version), potentially neither of us are co-authors or both of us are.

File: Cslib/Algorithms/Lean/Query/Sort/QueryTree.lean [hunk 7]
```diff
@@ -0,0 +1,107 @@
+/-
+Copyright (c) 2026 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/Sort/QueryTree.lean]: I published a similar proof of model wide lower bound a few hours before cslib#376 got there.

**Review by Shreyas4991 — COMMENTED** [review]
A non-comprehensive comparison with previous PR and authorship issues that arise therein.

File: Cslib/Algorithms/Lean/Query/Prog.lean [hunk 8]
```diff
@@ -0,0 +1,125 @@
...
+abbrev Prog (Q : Type → Type) (α : Type) := FreeM Q α
+
+namespace Prog
+
+variable {Q : Type → Type} {α β : Type}
+
+/-- Evaluate a program by answering each query using `oracle`. -/
+@[expose] def eval (oracle : {ι : Type} → Q ι → ι) : Prog Q α → α
+  | .pure a => a
+  | .liftBind op cont => eval oracle (cont (oracle op))
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Prog.lean]: I claim that pattern matching on the free monad is exploiting an implementation detail, and that everything should really go through the universal property, FreeM.liftM. (this is what #372 does)

File: Cslib/Algorithms/Lean/Query/Arith/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,79 @@
...
+-/
+
+open Cslib.Query
+
+public section
+
+namespace Cslib.Query
+
+/-- Arithmetic queries: addition, subtraction, and multiplication. -/
+inductive ArithQuery (α : Type) : Type → Type where
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/Arith/Defs.lean:25]: You want a zero and one for completeness. Also if it is just an illustrative example, it belongs in the tests folder (see my PR).

**Review by sgraf812 — COMMENTED** [review]
Suggestions:
* Define `queriesOn` as an abbreviation of `cost`, kill lemmas for the former
* Kill `QueryTree`, use `Prog` in `Sort.LowerBound`
* Perhaps use `liftM` instead of matching on constructors of `FreeM`
* Settle on a uniform way to name `liftBind` wrappers. `doX` sounds nice. These should just be abbrevs over `liftBind` IMO. Then you can define one `eval_liftBind` lemma instead of one such lemma for every query, I believe

You don't seem to need `Std.Do`. I think that's good news! I guess it will show up once we instrument monadic programs.

**Comment by Shreyas4991** [comment]
> Suggestions:
> * Define `queriesOn` as an abbreviation of `cost`, kill lemmas for the former
> * Kill `QueryTree`, use `Prog` in `Sort.LowerBound`
> * Perhaps use `liftM` instead of matching on constructors of `FreeM`
> * Settle on a uniform way to name `liftBind` wrappers. `doX` sounds nice. These should just be abbrevs over `liftBind` IMO. Then you can define one `eval_liftBind` lemma instead of one such lemma for every query, I believe
> 
> You don't seem to need `Std.Do`. I think that's good news! I guess it will show up once we instrument monadic programs.

1. Do we actually need those eval_liftBind lemmas? Lemmas on TimeM and Id should suffice. They do in #372

2. Since as you point out there is no more use of Std.Do, could we revert TimeM to being a writer monad? It makes no sense for time to be resetting its state to arbitrary values. I am guessing the switch to State was motivated by mvcgen stuff where the docs seem to suggest that state monads are well supported already.

**Comment by sgraf812** [comment]
> Do we actually need those eval_liftBind lemmas?

#372 defines

```
@[simp, grind =]
theorem Prog.eval_liftBind
    (x : Q α) (f : α → Prog Q β) (M : Model Q Cost) :
    Prog.eval (FreeM.liftBind x f) M = Prog.eval (f <| M.evalQuery x) M := by
  simp [Prog.eval]
```

So pretty much the same, no? I agree that the implementation of `.eval` should use `liftM (pure @Id \.)`

> Since as you point out there is no more use of Std.Do, could we revert TimeM to being a writer monad?

I don't understand what Std.Do has to do with whether or not `TimeM` is a writer monad. You can use Std.Do with writer monads as well. They are modeled the same as state monads; see the [`LogM` example](https://lean-lang.org/doc/reference/latest/The--mvcgen--tactic/Enabling--mvcgen--For-Monads/#LogM-_LPAR_in-A-Logging-Monad_RPAR_) in the reference manual. This PR doesn't even mention `TimeM` other than in imports (redundant?).

Of course the implication of the "use `liftM`" suggestion is that implementing `.cost` in terms of `liftM` requires a `TimeM`-like monad. Using `StateM Nat` locally for that purpose seems fine to me. Using `TimeM` would be fine as well... Just the name is a bit off.

**Comment by Shreyas4991** [comment]
> > Do we actually need those eval_liftBind lemmas?
> 
> 
> 
> #372 defines
> 
> 
> 
> ```
> 
> @[simp, grind =]
> 
> theorem Prog.eval_liftBind
> 
>     (x : Q α) (f : α → Prog Q β) (M : Model Q Cost) :
> 
>     Prog.eval (FreeM.liftBind x f) M = Prog.eval (f <| M.evalQuery x) M := by
> 
>   simp [Prog.eval]
> 
> ```
> 
> 
> 
> So pretty much the same, no? I agree that the implementation of `.eval` should use `liftM (pure @Id \.)`
> 
> 
> 
> > Since as you point out there is no more use of Std.Do, could we revert TimeM to being a writer monad?
> 
> 
> 
> I don't understand what Std.Do has to do with whether or not `TimeM` is a writer monad. You can use Std.Do with writer monads as well. They are modeled the same as state monads; see the [`LogM` example](https://lean-lang.org/doc/reference/latest/The--mvcgen--tactic/Enabling--mvcgen--For-Monads/#LogM-_LPAR_in-A-Logging-Monad_RPAR_) in the reference manual. This PR doesn't even mention `TimeM` other than in imports (redundant?).
> 
> 
> 
> Of course the implication of the "use `liftM`" suggestion is that implementing `.cost` in terms of `liftM` requires a `TimeM`-like monad. Using `StateM Nat` locally for that purpose seems fine to me. Using `TimeM` would be fine as well... Just the name is a bit off.

Fair about liftBind.

I agree about the name of TimeM. I have been saying for weeks that it should be renamed to AddWriter (Mathlib's writer combines logs by multiplication)

But my question is still: do we need state monad? Tallying up query calls sounds like the perfect description of a writer monad. I am calling it TimeM now because TimeM is essentially a writer monad under a different name. It also has all the API.

Changing that name and moving it to the foundations folder would require permission from maintainers since it is currently treated as a different model. So maintainers have to weigh in and favour deleting it (this is why I have left it largely untouched in #372)

**Comment by Shreyas4991** [comment]
@sgraf812 Maybe my point is clearer if I offer some uses I have in mind for a time/writer monad as the cost type as in my PR: 

1. Collecting a trace of calls to one or more queries. I already use this in the traceSort function of my Lower bound proof. 

2. Collecting a finset of TM cells that are written on the work tape of a TM. This gives space complexity for TMs. Likewise for RAM models. 

3. Collecting a list of unique IDs in a circuit with node IDs. This gives the size of a circuit. In circuits, unlike formulas we do not count nodes that are re-used twice. This is unlike formulas where just recursively adding up the number of nodes is sufficient. Circuits can be exponentially smaller than formulas by clever design. 


All these seem to me to be just writer monads.

**Comment by sgraf812** [comment]
[Note that efficient implementations of `WriterT` go via `StateT` anyway.](https://live.lean-lang.org/#codez=PQWghAUAxABA6gJwJYBcCmCYFkD2A7AQwBMYAhNPAYwAsBbAhAawC4YAFApTANwGcYAyigLosEaLAAq1NDAAOCHACMANmlowA7qmowUM+Z0ybk6BOOmzKKgr15JKBFVtMYYtfMRhJ+BQ1xgAAwAKQEbgGAB1+ABKQK0dGCUkPCJmcRgMmGCCABotQECCaJgAPmKAXhgAMwzmCpg1FCylPM1AIIIi2qqYAgBuJpb8mABqIa128TgZPD00FRVfBCscWjkcXjQSVAwRJG5ZgE8s/VkUfbkHJ0MUM2nk7xXtlF20EF5TtQhKHCI0aLyklLeXxyOQqJAbbq+GAAKmhakqjUqOBURFhrDQBBoMDeaDkMC+KwAruh+IFMZRCRoRjA8GhNIEAHQQABiOEwgQAMj4UIE8vofPicOc0PxjjA0HsECAAOaKbR4aX1NAImBC7YpPLS3bJaXpTIARmGMAATEaAMxGgDt1qN0xgdQA8sE8AAm6LiKCwSaHIQiNBYIGJNDXDDiQK+0TwGDhCpwGCAJMJo5F4IyMgBJFD8AGbfgAK0JbyqhKoT3wgpWa1QSDLgBQCbyNIg4EUQWF4HDufA4JAkTRsxhovUZYIaUoVSpFfgwTpKxrZPK8ADkHQqGl4fWqfkXFmoAp+X0JoJFMM0U2hegMHjb3dVcke1em1AIIIo/Eqig00OoOE0Z4JcmJOz4LwEAMLI6wAI6EhQlAbJq2oKnovaClQizoN0RDcAQeDCNKIppBA+oMjC0IAMJfg4sg4BulAUrQhI2KW0xvAgfrSvsDKwhAmRwFYWEwD8lTJLIgToHMWhTiu3xIJUhzBJowyjJasR5EgDJoERsIKLiFComeyQ4l4VFcRkT63ikREwAAopiuhaWZJBUd02I6g0ZYCk6+p/N0gJ+IJhDOJy3IMoskrrIExmBk6eDRBZlj+MYrgIAuWbJCQj4IEQIBfD8pLIiQ1K0vSeRIgglA6ueaARWgAAeZn2Hs/FcGglCMUyEDGhp0IAErKhg0GyMWSCQRQIqvmyMAAIIICx7GcZkabTOGwiRsEU0zdGykVd0NGUvRIjjZUKjfvwYK0gwKiHPoiiEtKujHBFf4Aa1GQchieDJTAiyVH1VAvPu2HlQgxZPLQvHTD86AtVtg3DRFX0/TB3kkDVzXEsJa0EOx/68NQcSwskICgpiaCwt40weUUBAeAgTzrCQIPqR6XqPo0/KvkgahBlQdAMIwwEQDx5ZyKB56LLI5K7Qx95XDcvB5BiWJ3H4R1Cqq1SBHgcT2Aqrl4BAABEonzPr+EAD7sCINyZNbNuZObbAYK86B4l8hYZObkg4MIzjuxApsgAHgdB8HIcB/7ocRyA4eh6bftBOSCkwAA2kgAC6cRZMLXBFDA5tOowlONDieKMO7MBRW6vvm4ESBTqw5IZ0OEb+kUefBJ5ts2230V23HZI0Qy2O6EgGfBM3WCt+X7fRGendl1FOe5+IwTQlTbK0xs7oQHFKtyPwRBNS1F3uFwijGCzMCPs+eD8Pp3YnBenhEB92b4SAxEcFwiBbJg2akxKThCR+lyiiAA+jgYk/5GgFTpOAyBxI4gYlwggY+Cs7pIFBsZVAgZTJglgvIRQRBCRlQQmKfulBE4p3TjLDAeAmTv1hOPRIqVSag0WMfP8awjyVGLC1e8a4tqYhQEA5wYJCy9iYIGASGBFhEGMigdsIlZgqF5FoGQiwtDiw0W+NAJx2x2R0qqTAQ96HAHEJHCxlirHWJsZYiAAcYCEQtl/RKHZCAkGCCVbwcwCwoBYoxd0tignBJCTY8QoB34kRsHYC4zgTA/zcV4WwTkFDfGIazM46kYAgDMcxdJhINGfwQN/MwWQ4ysEkJkooYQpwwEqbeIoJ4+rGUws4VgoRjIQMaKwOA4h9LCF+snCa18SBwFTsnSyKxTgkWRGoPhZYxm1NwO4rIRSSluDgI09RlUMj/g0X4TogAL8lyDAQAoESAEvyYy2Z3BdFqBFGcn0JJdFoAyVp9zDkIFeU4PILyumJ0+V085c8MgOMAAmESoVRqhYoCWUx1IAQAiVZWg2CulQLJltLOCUf5ERyRAASzjimJQZEbIZIz4DjKTpMuQ0zZnNUYuSrI8kekdAJeszAcYACqeBsF3IyIc4IXlNCXPsaE0VYrQkipNERJh8TSmePGhzFQvj/H3kCeK9VGqLHhIcZMlF8DGhKEOJpRY9kdSkzrBTKo41NwuWDPgHFZj8XN0kMoxltSuSFlCCyphwQPWNC9TALlPKyjGQ8AfGSRZpgJzKMUcS1JyTmM1Um5NIBJVmiIuQbm9BJG734MEO4aYHR6H0SFCgjQ/wcxeAzcUrSgEBJFSmxtYrtXvwEBgvaJJWWuOuUrCFiI8rohstiZ2/EmykgTtSKhjJ7kzMLLeTAxdWBOlNuSU2MUMie29ku50boHV4uVH24Z9kOQ4FVs6WpAA5EQLLC1ZD9TAK9KBlyjuMg0T6B7wWFoZLQRgPVqjBCTuM1g97H3ugyF42udwk7MDwOMxs9y30J3BV9BkuEUD3JQ+sWcE7RhULA++yoqHgwtsEO2hiR4ZWuO0PoAh2kUiDqxMXUdR4a5122pQad1sJpVGSJcUtCB1jvreGyI8YovjTTpUYn4nyZ1rEaPO4duJt2eVil7S4+aqBKoPghfj6xojbuinu/FBiUg9W4Ces90xWCgdqbe313IH3XqefBjIb6vowE/Q6b9v6D0AaAzAED17jIQfRdB2DL7rYobDdJWStdmCsCUq+4M7GPMEaI+hjIqEClRoHrpyqCKHFtrouR/glGEnUd0BjLGBZqBMmthy9YpJosyTiAo2j6wEANXhosQZMMoK0jsAmMmhMbCIxMbJudbhF3dGphvEgFNVNbqnoZ7JjqD0MBmmwGrFm8Tnus051gdmquOafc5nASXGjuc895v9WQoCAdqcd0DwWFWhZg3B87kXlTfqkhG4IlpB41e8IvG2Di+uyHc4mAmRNEZ0WWveSAmXvtocTU2tHwTJWSAweVGQKh50NvR4Tqx4h8XVuyFDQ7RaA2U6yI+5M1OKguYeSgAADKlr9l4cBXrbLwC934LtOXBUIgXKBDTXc59ztYfPNDGSywgaYwRRfZL0CzvIBAt74sqLQFAku8030vQdwQfjyq8oebQfgnRgjMiOiIBkVE6c3yKMARxoCWdu9d27hkLOBfXRSBCTo1ucC299x483MJHGe5Z07iPLOvfGV4GAfWABvEPGwAC+7heD61R0T3PEdJVYE4HrPPJfQ4k4PUDPAmasTBBsEoWYtShDIAVNUoRtmi02Zp3TzoTO33OjlkqHu4Lq3C/TF5hQyQUAqCYonjISe6+zDT6wGASetc66wmsGkvAM9ZDUAqGjFR58UDT9EbPSPhHy63+X6o9A7g06Dd0xnn2YBfon9hafMB9ZsuwE/Mg0EeZMCsBFK77KgoAgCmQ6RFB8BG5+gBjBAmYkDO5Dyn7GSv7N5T7TD6xlDYE4G4F4H4EEGEFEHEEkG4Fn4v7j7oEf76zkFoGT7UEZBrKuLCwhiX61IpaTppw2yJjLaVxWqYB+q0GUH0GYEZDjzAD3osFWzL5xb1w0RGghQZA8ELxCGDxUGiEwGiDADHZSG0LL7kiA44zeC2zKHOg5xrw0w+AbCqFv4YGf7Z4C72AABeR4wGDm3eFQSc+obuquJoPheQAArP4THm7qnHqF4rcExEgC4fvM/mPmoSIdiInoHDSPaCvngBnoHA4dbA4kUiALKm4LoZfsELwIwEgHiF4pKIcDYAgLhKkW1gQNwF2CQEdAhJoJwJmPhhkNJKkYACZEMAQRPhFU4McRmQb6oCqWle1eug+sTBCSWQOGycaci8+sEWncbmIo9EjQ4K8IKAR6OkO2NI9yX2F+0wiwvAWxDIe+0o+g9ysw6wxxFBCR7+GhcxpSCx8hnBqci8y+AgAA0mmGwGwJZAACJHCnrYhHSaAoEIbJYTHIbFjTGf7Nzf75psbkh5AhSn5rHWwbEXEqDbG0b2RmaHF6y2xy5nGbEElXEUA3HUCDgPLwmfSIn/6f5VaokGFDzA6ZCrFM64nJbnFbGpYbaYxbY4ykmPEUlCaXHOH5bWx0EvH2F6gKl2H6xxSYr5HMGWy0IwCwqaD8CQTEAqqOBzCHD16OAFiyBoLxyfG4ZpyBA2HqGf5fDCiigGBlpNTsaSx+gtFBRiHLT+jdBNHdhukCiGozhPAKiOmJH6xKJzBxA0CnqCZ8TKiCRlRlrDr+JoBsSZwmqGLjRVaGHUAxQOFQAALOC354BAA) So if anything, the Writer monad should be implemented in terms of the State monad.

**Comment by Shreyas4991** [comment]
> [Note that efficient implementations of `WriterT` go via `StateT` anyway.](https://live.lean-lang.org/#codez=PQWghAUAxABA6gJwJYBcCmCYFkD2A7AQwBMYAhNPAYwAsBbAhAawC4YAFApTANwGcYAyigLosEaLAAq1NDAAOCHACMANmlowA7qmowUM+Z0ybk6BOOmzKKgr15JKBFVtMYYtfMRhJ+BQ1xgAAwAKQEbgGAB1+ABKQK0dGCUkPCJmcRgMmGCCABotQECCaJgAPmKAXhgAMwzmCpg1FCylPM1AIIIi2qqYAgBuJpb8mABqIa128TgZPD00FRVfBCscWjkcXjQSVAwRJG5ZgE8s/VkUfbkHJ0MUM2nk7xXtlF20EF5TtQhKHCI0aLyklLeXxyOQqJAbbq+GAAKmhakqjUqOBURFhrDQBBoMDeaDkMC+KwAruh+IFMZRCRoRjA8GhNIEAHQQABiOEwgQAMj4UIE8vofPicOc0PxjjA0HsECAAOaKbR4aX1NAImBC7YpPLS3bJaXpTIARmGMAATEaAMxGgDt1qN0xgdQA8sE8AAm6LiKCwSaHIQiNBYIGJNDXDDiQK+0TwGDhCpwGCAJMJo5F4IyMgBJFD8AGbfgAK0JbyqhKoT3wgpWa1QSDLgBQCbyNIg4EUQWF4HDufA4JAkTRsxhovUZYIaUoVSpFfgwTpKxrZPK8ADkHQqGl4fWqfkXFmoAp+X0JoJFMM0U2hegMHjb3dVcke1em1AIIIo/Eqig00OoOE0Z4JcmJOz4LwEAMLI6wAI6EhQlAbJq2oKnovaClQizoN0RDcAQeDCNKIppBA+oMjC0IAMJfg4sg4BulAUrQhI2KW0xvAgfrSvsDKwhAmRwFYWEwD8lTJLIgToHMWhTiu3xIJUhzBJowyjJasR5EgDJoERsIKLiFComeyQ4l4VFcRkT63ikREwAAopiuhaWZJBUd02I6g0ZYCk6+p/N0gJ+IJhDOJy3IMoskrrIExmBk6eDRBZlj+MYrgIAuWbJCQj4IEQIBfD8pLIiQ1K0vSeRIgglA6ueaARWgAAeZn2Hs/FcGglCMUyEDGhp0IAErKhg0GyMWSCQRQIqvmyMAAIIICx7GcZkabTOGwiRsEU0zdGykVd0NGUvRIjjZUKjfvwYK0gwKiHPoiiEtKujHBFf4Aa1GQchieDJTAiyVH1VAvPu2HlQgxZPLQvHTD86AtVtg3DRFX0/TB3kkDVzXEsJa0EOx/68NQcSwskICgpiaCwt40weUUBAeAgTzrCQIPqR6XqPo0/KvkgahBlQdAMIwwEQDx5ZyKB56LLI5K7Qx95XDcvB5BiWJ3H4R1Cqq1SBHgcT2Aqrl4BAABEonzPr+EAD7sCINyZNbNuZObbAYK86B4l8hYZObkg4MIzjuxApsgAHgdB8HIcB/7ocRyA4eh6bftBOSCkwAA2kgAC6cRZMLXBFDA5tOowlONDieKMO7MBRW6vvm4ESBTqw5IZ0OEb+kUefBJ5ts2230V23HZI0Qy2O6EgGfBM3WCt+X7fRGendl1FOe5+IwTQlTbK0xs7oQHFKtyPwRBNS1F3uFwijGCzMCPs+eD8Pp3YnBenhEB92b4SAxEcFwiBbJg2akxKThCR+lyiiAA+jgYk/5GgFTpOAyBxI4gYlwggY+Cs7pIFBsZVAgZTJglgvIRQRBCRlQQmKfulBE4p3TjLDAeAmTv1hOPRIqVSag0WMfP8awjyVGLC1e8a4tqYhQEA5wYJCy9iYIGASGBFhEGMigdsIlZgqF5FoGQiwtDiw0W+NAJx2x2R0qqTAQ96HAHEJHCxlirHWJsZYiAAcYCEQtl/RKHZCAkGCCVbwcwCwoBYoxd0tignBJCTY8QoB34kRsHYC4zgTA/zcV4WwTkFDfGIazM46kYAgDMcxdJhINGfwQN/MwWQ4ysEkJkooYQpwwEqbeIoJ4+rGUws4VgoRjIQMaKwOA4h9LCF+snCa18SBwFTsnSyKxTgkWRGoPhZYxm1NwO4rIRSSluDgI09RlUMj/g0X4TogAL8lyDAQAoESAEvyYy2Z3BdFqBFGcn0JJdFoAyVp9zDkIFeU4PILyumJ0+V085c8MgOMAAmESoVRqhYoCWUx1IAQAiVZWg2CulQLJltLOCUf5ERyRAASzjimJQZEbIZIz4DjKTpMuQ0zZnNUYuSrI8kekdAJeszAcYACqeBsF3IyIc4IXlNCXPsaE0VYrQkipNERJh8TSmePGhzFQvj/H3kCeK9VGqLHhIcZMlF8DGhKEOJpRY9kdSkzrBTKo41NwuWDPgHFZj8XN0kMoxltSuSFlCCyphwQPWNC9TALlPKyjGQ8AfGSRZpgJzKMUcS1JyTmM1Um5NIBJVmiIuQbm9BJG734MEO4aYHR6H0SFCgjQ/wcxeAzcUrSgEBJFSmxtYrtXvwEBgvaJJWWuOuUrCFiI8rohstiZ2/EmykgTtSKhjJ7kzMLLeTAxdWBOlNuSU2MUMie29ku50boHV4uVH24Z9kOQ4FVs6WpAA5EQLLC1ZD9TAK9KBlyjuMg0T6B7wWFoZLQRgPVqjBCTuM1g97H3ugyF42udwk7MDwOMxs9y30J3BV9BkuEUD3JQ+sWcE7RhULA++yoqHgwtsEO2hiR4ZWuO0PoAh2kUiDqxMXUdR4a5122pQad1sJpVGSJcUtCB1jvreGyI8YovjTTpUYn4nyZ1rEaPO4duJt2eVil7S4+aqBKoPghfj6xojbuinu/FBiUg9W4Ces90xWCgdqbe313IH3XqefBjIb6vowE/Q6b9v6D0AaAzAED17jIQfRdB2DL7rYobDdJWStdmCsCUq+4M7GPMEaI+hjIqEClRoHrpyqCKHFtrouR/glGEnUd0BjLGBZqBMmthy9YpJosyTiAo2j6wEANXhosQZMMoK0jsAmMmhMbCIxMbJudbhF3dGphvEgFNVNbqnoZ7JjqD0MBmmwGrFm8Tnus051gdmquOafc5nASXGjuc895v9WQoCAdqcd0DwWFWhZg3B87kXlTfqkhG4IlpB41e8IvG2Di+uyHc4mAmRNEZ0WWveSAmXvtocTU2tHwTJWSAweVGQKh50NvR4Tqx4h8XVuyFDQ7RaA2U6yI+5M1OKguYeSgAADKlr9l4cBXrbLwC934LtOXBUIgXKBDTXc59ztYfPNDGSywgaYwRRfZL0CzvIBAt74sqLQFAku8030vQdwQfjyq8oebQfgnRgjMiOiIBkVE6c3yKMARxoCWdu9d27hkLOBfXRSBCTo1ucC299x483MJHGe5Z07iPLOvfGV4GAfWABvEPGwAC+7heD61R0T3PEdJVYE4HrPPJfQ4k4PUDPAmasTBBsEoWYtShDIAVNUoRtmi02Zp3TzoTO33OjlkqHu4Lq3C/TF5hQyQUAqCYonjISe6+zDT6wGASetc66wmsGkvAM9ZDUAqGjFR58UDT9EbPSPhHy63+X6o9A7g06Dd0xnn2YBfon9hafMB9ZsuwE/Mg0EeZMCsBFK77KgoAgCmQ6RFB8BG5+gBjBAmYkDO5Dyn7GSv7N5T7TD6xlDYE4G4F4H4EEGEFEHEEkG4Fn4v7j7oEf76zkFoGT7UEZBrKuLCwhiX61IpaTppw2yJjLaVxWqYB+q0GUH0GYEZDjzAD3osFWzL5xb1w0RGghQZA8ELxCGDxUGiEwGiDADHZSG0LL7kiA44zeC2zKHOg5xrw0w+AbCqFv4YGf7Z4C72AABeR4wGDm3eFQSc+obuquJoPheQAArP4THm7qnHqF4rcExEgC4fvM/mPmoSIdiInoHDSPaCvngBnoHA4dbA4kUiALKm4LoZfsELwIwEgHiF4pKIcDYAgLhKkW1gQNwF2CQEdAhJoJwJmPhhkNJKkYACZEMAQRPhFU4McRmQb6oCqWle1eug+sTBCSWQOGycaci8+sEWncbmIo9EjQ4K8IKAR6OkO2NI9yX2F+0wiwvAWxDIe+0o+g9ysw6wxxFBCR7+GhcxpSCx8hnBqci8y+AgAA0mmGwGwJZAACJHCnrYhHSaAoEIbJYTHIbFjTGf7Nzf75psbkh5AhSn5rHWwbEXEqDbG0b2RmaHF6y2xy5nGbEElXEUA3HUCDgPLwmfSIn/6f5VaokGFDzA6ZCrFM64nJbnFbGpYbaYxbY4ykmPEUlCaXHOH5bWx0EvH2F6gKl2H6xxSYr5HMGWy0IwCwqaD8CQTEAqqOBzCHD16OAFiyBoLxyfG4ZpyBA2HqGf5fDCiigGBlpNTsaSx+gtFBRiHLT+jdBNHdhukCiGozhPAKiOmJH6xKJzBxA0CnqCZ8TKiCRlRlrDr+JoBsSZwmqGLjRVaGHUAxQOFQAALOC354BAA) So if anything, the Writer monad should be implemented in terms of the State monad.

Okay. But conceptually it would still be nice to have the writer monad (on top of StateT). Note of course that we are not ever trying to run the writer monad here, but prove things with it. Only the evaluated function is run. Could we discuss this benchmark separately? 
1. To me this benchmark appears suspiciously list dependent and in-particular on appending to the end of lists. 
2. We could just as well prepend on lists and reverse at each call to `tell` in Writer.
3. The final benchmarks are executed on IO anyway and disconnected from StateT. 

But this might also not be on-topic here. What is still on-topic is, we don't really use StateT or WriterT for running. We use it in proofs, where efficiency of running doesn't matter. We only run everything in the Id monad where these time/trace/cost computations have been discarded. From a proof perspective, writer monad is much simpler than state monad.

**Comment by kim-em** [comment]
> Suggestions:
> 
> * Define `queriesOn` as an abbreviation of `cost`, kill lemmas for the former
> * Kill `QueryTree`, use `Prog` in `Sort.LowerBound`
> * Perhaps use `liftM` instead of matching on constructors of `FreeM`
> * Settle on a uniform way to name `liftBind` wrappers. `doX` sounds nice. These should just be abbrevs over `liftBind` IMO. Then you can define one `eval_liftBind` lemma instead of one such lemma for every query, I believe
> 
> You don't seem to need `Std.Do`. I think that's good news! I guess it will show up once we instrument monadic programs.

Thanks @sgraf812 for this review, and apologies for the delay. There are some meta level discussions going on amongst CSLib / leanprover-community teams that I would like to allow to resolve before I return attention to this.

**Comment by kim-em** [comment]
I've now updated the history, per CSLib maintainers' suggestion to include Shreyas' earlier work from 372 to show that as an antecedent, and updated `Authors:` lines liberally.

**Comment by Shreyas4991** [comment]
1. I wish to point out that the authorship and copyright headers must also be changed. This is my code. The FRO can't claim copyright.
2. Same for author comments. The order of authorship matters.
3. This PR still doesn't address the technical deficiencies w.r.t. mine, because it entirely overwrites my content.
4. Query Trees are still redundant. They are trivially derivable from Progs.
5. The Arith query should use my query and build on top of it.
6. Per Fabrizio's message to me there was no mention of "superseding" any of my work. He said the pr would build on top of mine. 
7. The overall technical merits of adding extra monadic polymorphism becomes even less apparent. Technically it doesn't even make sense to add another monad parameter since FreeM is already parametrising a functor (more general than a monad). That is it is already monad parametric.
8. All the features claimed to be derived from model hiding can already be achieved in the model of 372. In fact this is as simple as quantifying over arbitrary models in theorem statements. The extra monad parameter is redundant. It can actually be substituted by any type constructor (which is essentially what the `F` in `FreeM F a` really is).
9. The examples I added should be preserved.

File: Cslib/Algorithms/Lean/Query/Prog.lean (hunk 8 above)
Comment (sgraf812) [reply Cslib/Algorithms/Lean/Query/Prog.lean]: Still relevant

File: Cslib/Algorithms/Lean/Query/QueryTree.lean [hunk 10]
```diff
@@ -0,0 +1,140 @@
...
+
+public section
+
+namespace Cslib.Query
+
+/-- A decision tree over queries of type `Q → R`, with results of type `α`.
+
+This is the free monad specialized to a single fixed-type operation, used to reify
+algorithms as explicit trees for query complexity lower bounds. -/
+inductive QueryTree (Q : Type) (R : Type) (α : Type) where
```
Comment (sgraf812) [inline Cslib/Algorithms/Lean/Query/QueryTree.lean]: Delete this file. Use `ProgM` throughout.

**Review by sgraf812 — COMMENTED** [review]
I think 3 of my 4 items in https://github.com/leanprover/cslib/pull/401#pullrequestreview-3911595962 haven't been addressed yet. I think the `doX` stuff has been addressed.

**Comment by Shreyas4991** [comment]
> Programs are `Prog Q α` (free monad over query type `Q`), and the oracle is supplied *after* the program produces its query plan — giving anti-cheating guarantees for both upper and lower bounds. No WP/Hoare triple machinery is needed: correctness is just equations about `Prog.eval oracle`, and cost is just equations about `Prog.queriesOn oracle`.


One small nitpick, in the counting of time complexity, the complexity of an oracle call can depend on size/parameters of inputs supplied to it. For example the cost of calling a vertex connectivity query to a subgraph depends on the edge and vertex size of a subgraph. The current definition simply assumes each oracle call costs 1.

**Comment by kim-em** [comment]
> * Define `queriesOn` as an abbreviation of `cost`, kill lemmas for the former

@sgraf812 could you take a look again and see if you'd still like me to remove things here?

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 11]
```diff
@@ -0,0 +1,254 @@
...
+- `queriesOn` is `cost` with unit weight.
+
+The constructor-form simp lemmas (`eval_pure`, `eval_liftBind`, `cost_pure`,
+`cost_liftBind`, `queriesOn_pure`, `queriesOn_liftBind`) all reduce by `rfl`, giving the
+same proof ergonomics as direct pattern-match definitions while honouring the universal
+property as the primary abstraction. -/
+
+/-- Internal accumulator monad: a value paired with a `Nat`-valued running cost.
+Used to define `cost` and `queriesOn` via `liftM`. -/
+structure Tally (α : Type) where
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/FreeM.lean]: This is exactly `TimeM a`, so let's drop this

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 12]
```diff
@@ -0,0 +1,254 @@
...
+    cases f a
+    simp)
+  (bind_assoc := fun ⟨_, _⟩ _ _ => by
+    change Tally.mk _ _ = Tally.mk _ _
+    simp [Bind.bind, Nat.add_assoc])
+
+/-- Evaluate a program by answering each query using `oracle`.
+Defined as `liftM` to `Id`, the canonical interpreter into pure values. -/
+@[expose] def eval (oracle : {ι : Type} → F ι → ι) (p : FreeM F α) : α :=
+  p.liftM (m := Id) oracle
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/FreeM.lean]: This is missing `pure` and `Id.run`

File: Cslib/Algorithms/Lean/Query/Sort/IsSort.lean [hunk 13]
```diff
@@ -0,0 +1,37 @@
...
+
+public section
+
+namespace Cslib.Query
+
+/-- A `FreeM`-based function is a correct comparison sort if it always produces a permutation
+    of its input, and produces a sorted list when the oracle implements a total order. -/
+structure IsSort (sort : List α → FreeM (LEQuery α) (List α)) : Prop where
+  /-- The sort produces a permutation of its input, for any oracle. -/
+  perm : ∀ (xs : List α) (oracle : {ι : Type} → LEQuery α ι → ι),
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/IsSort.lean:27]: Requiring this for even bad oracles is an interesting but reasonable choice.

File: Cslib/Algorithms/Lean/Query/Sort/LEQuery.lean [hunk 14]
```diff
@@ -0,0 +1,52 @@
...
+public section
+
+namespace Cslib.Query
+
+/-- Comparison query: asks whether `a ≤ b`, returning a `Bool`. -/
+inductive LEQuery (α : Type) : Type → Type where
+  | le (a b : α) : LEQuery α Bool
+
+/-- Lift `LEQuery.le a b` into a `FreeM` that returns the comparison result. -/
+@[expose] def LEQuery.ask (a b : α) : FreeM (LEQuery α) Bool :=
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/LEQuery.lean:25]: I'd suggest making all these wrappers for `FreeM.lift` `abbrev`s

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 11 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: (perhaps this is a better name though; I wouldn't be opposed to a separate PR renaming TimeM to TallyM)

File: Cslib/Algorithms/Lean/Query/Sort/IsSort.lean (hunk 13 above)
Comment (sgraf812) [reply Cslib/Algorithms/Lean/Query/Sort/IsSort.lean:27]: Although is it really reasonable? I think it could unnecessarily rule out some high performance implementations. I don't have a concrete example, though...

File: Cslib/Algorithms/Lean/Query/Sort/LEQuery.lean (hunk 14 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Query/Sort/LEQuery.lean:25]: (as I do in #525)

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 15]
```diff
@@ -0,0 +1,256 @@
...
+
+/-- Weighted query cost: each query has a cost given by `weight`, accumulated along the
+oracle-determined path. Defined as `liftM` into the accumulator monad `Tally`. -/
+@[expose] def cost (oracle : {ι : Type} → F ι → ι)
+    (weight : {ι : Type} → F ι → Nat) (p : FreeM F α) : Nat :=
+  (p.liftM (m := Tally) (fun op => ⟨weight op, oracle op⟩)).cost
+
+/-- Count the number of queries along the path determined by `oracle`. -/
+@[expose] def queriesOn (oracle : {ι : Type} → F ι → ι) (p : FreeM F α) : Nat :=
```
Comment (sgraf812) [inline Cslib/Algorithms/Lean/Query/FreeM.lean:76]: Minor: I tend to read `queriesOn` and think "this gives back a trace of the queries done by `p`" even if it doesn't make sense typically. Maybe `cost1`? Or `countQueries` (which nicely matches existing use of `count` in `Std`)?

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean [hunk 16]
```diff
@@ -0,0 +1,168 @@
...
+@[simp] theorem eval_orderedInsert_nil (oracle : {ι : Type} → LEQuery α ι → ι) (x : α) :
+    (orderedInsert x ([] : List α)).eval oracle = [x] := by
+  simp [orderedInsert]
+
+@[simp] theorem eval_orderedInsert_cons (oracle : {ι : Type} → LEQuery α ι → ι) (x y : α)
+    (ys : List α) :
+    (orderedInsert x (y :: ys)).eval oracle =
+      if oracle (.le x y) then x :: y :: ys
+      else y :: (orderedInsert x ys).eval oracle := by
+  simp [orderedInsert, LEQuery.ask]
```
Comment (sgraf812) [inline Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean:40]: `LEQuery.ask` here hints at a missing `simp` lemma? Shouldn't `eval_ask` have fired? Maybe it is fixed by making `LEQuery.ask` an `abbrev`, as Eric suggests...

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean [hunk 17]
```diff
@@ -0,0 +1,271 @@
...
+    (merge xs ([] : List α)).eval oracle = xs := by
+  cases xs <;> simp [merge]
+
+@[simp] theorem eval_merge_cons_cons (oracle : {ι : Type} → LEQuery α ι → ι)
+    (x : α) (xs' : List α) (y : α) (ys' : List α) :
+    (merge (x :: xs') (y :: ys')).eval oracle =
+      if oracle (.le x y)
+      then x :: (merge xs' (y :: ys')).eval oracle
+      else y :: (merge (x :: xs') ys').eval oracle := by
+  simp [merge, LEQuery.ask]
```
Comment (sgraf812) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean:63]: Similarly here. Is there a reusable `simp` lemma missing?

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean [hunk 18]
```diff
@@ -0,0 +1,271 @@
...
+    (merge xs ([] : List α)).queriesOn oracle = 0 := by
+  cases xs <;> simp [merge]
+
+@[simp] theorem queriesOn_merge_cons_cons (oracle : {ι : Type} → LEQuery α ι → ι)
+    (x : α) (xs' : List α) (y : α) (ys' : List α) :
+    (merge (x :: xs') (y :: ys')).queriesOn oracle =
+      1 + if oracle (.le x y)
+      then (merge xs' (y :: ys')).queriesOn oracle
+      else (merge (x :: xs') ys').queriesOn oracle := by
+  simp [merge, LEQuery.ask]
```
Comment (sgraf812) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean:184]: and here

**Review by sgraf812 — COMMENTED** [review]
Much better 👍

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 11 above)
Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: Why not call it AddWriter and move it to Foundations? If the upstream writer gets its to_additive version then there'd just be a small refactor.

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 19]
```diff
@@ -0,0 +1,256 @@
...
+  cost oracle (fun _ => 1) p
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/FreeM.lean:77]: Queries can have more generic, input-size dependent costs.

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 11 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: I've gone ahead and deleted `Tally`.

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 20]
```diff
@@ -0,0 +1,235 @@
...
+/-- Evaluate a program by answering each query using `oracle`.
+Defined as `liftM` to `Id`, the canonical interpreter into pure values. -/
+@[expose] def eval (oracle : {ι : Type} → F ι → ι) (p : FreeM F α) : α :=
+  Id.run <| p.liftM fun i => pure (oracle i)
+
+/-- Weighted query cost: each query has a cost given by `weight`, accumulated along the
+oracle-determined path. Defined as `liftM` into the accumulator monad `TimeM`. -/
+@[expose] def cost (oracle : {ι : Type} → F ι → ι)
+    (weight : {ι : Type} → F ι → Nat) (p : FreeM F α) : Nat :=
+  TimeM.time <| p.liftM fun op => ⟨oracle op, weight op⟩
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/FreeM.lean:73]: I don't think there's a good reason to restrict to `Nat` here.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean [hunk 21]
```diff
@@ -0,0 +1,168 @@
...
+public section
+
+namespace Cslib.Query
+
+variable {α : Type}
+
+-- ## Evaluation simp lemmas for orderedInsert
+
+@[simp] theorem eval_orderedInsert_nil (oracle : {ι : Type} → LEQuery α ι → ι) (x : α) :
+    (orderedInsert x ([] : List α)).eval oracle = [x] := by
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean:32]: I think we should just prove that `(orderedInsert x l).eval oracle = l.orderedInsert x (fun x y => oracle (.le x y))`, and then we can delete most of this file.

File: Cslib/Algorithms/Lean/Query/Sort/IsSort.lean (hunk 13 above)
Comment (sorrachai) [reply Cslib/Algorithms/Lean/Query/Sort/IsSort.lean:27]: The name `isSort` is misleading because you also include `perm` inside. More descriptive/explicit name is better e.g.,  `isSortPerm`.

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 22]
```diff
@@ -0,0 +1,235 @@
...
+
+/-- Finset-based version: if the oracles indexed by `S` produce `|S|`-many distinct
+    evaluation results, then some oracle in `S` makes at least `⌈log_r |S|⌉` queries. -/
+private theorem exists_mem_queriesOn_ge_clog (r : Nat)
+    (h_fin : ∀ {ρ : Type}, F ρ → Fintype ρ)
+    (h_card : ∀ {ρ : Type} (op : F ρ), @Fintype.card ρ (h_fin op) ≤ r)
+    {ix : Type} (p : FreeM F α) (S : Finset ix) (hS : S.Nonempty)
+    (oracles : ix → ({ρ : Type} → F ρ → ρ))
+    (h_inj : Set.InjOn (fun i => p.eval (oracles i)) ↑S) :
+    ∃ i ∈ S, p.queriesOn (oracles i) ≥ Nat.clog r S.card := by
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Query/FreeM.lean:146]: Beautiful.

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 23]
```diff
@@ -0,0 +1,235 @@
...
+`F : Type → Type` represents a query type mapping each query to its response type.
+
+The key operations are:
+- `FreeM.eval oracle p`: evaluate `p` by answering each query using `oracle`
+- `FreeM.queriesOn oracle p`: count queries along the oracle-determined path
+- `FreeM.cost oracle weight p`: weighted query cost
+
+Because the oracle is supplied *after* the program produces its query plan (the `FreeM` tree),
+a sound implementation has no way to "guess" what the oracle would respond. This is the
+foundation of the anti-cheating guarantee for both upper and lower bounds.
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Query/FreeM.lean:27]: FreeM is more robust than TimeM, but I understand that FreeM is not immune to cost cheating, right? If so, we should explicitly write a warning/caveat to the users so they aware some weaknesses. In particular, we should write how much trust do we require in this model so that the complexity is counted correctly.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean [hunk 24]
```diff
@@ -0,0 +1,94 @@
...
+Authors: Kim Morrison, Shreyas Srinivas, Sorrachai Yingchareonthawornchai
+-/
+module
+
+public import Cslib.Algorithms.Lean.Query.Sort.LEQuery
+
+/-! # Merge Sort as a Query Program
+
+Merge sort implemented as a `FreeM (LEQuery α)`, making all comparison queries explicit.
+Uses an alternating split (odds/evens) to avoid needing `List.length` in the termination
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean:13]: Can you elaborate on why using `List.length` is bad in the termination argument?

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean [hunk 25]
```diff
@@ -0,0 +1,94 @@
...
+  simp only [split_fst_length_eq, List.length_cons]; omega
+
+theorem split_snd_length_lt (x y : α) (zs : List α) :
+    (split (x :: y :: zs)).2.length < (x :: y :: zs).length := by
+  simp only [split_snd_length_eq, List.length_cons]; omega
+
+/-- Merge two sorted lists using comparison queries. -/
+@[expose] def merge (xs ys : List α) : FreeM (LEQuery α) (List α) :=
+  match xs, ys with
+  | [], ys => pure ys
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean:66]:
```suggestion
  | [], ys => pure ys
```
`return ys` has better stylistic reading. This applies to other similar lines.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean (hunk 24 above)
Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean:13]: The odd even split uses structural recursion instead of well founded recursion.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean [hunk 26]
```diff
@@ -0,0 +1,41 @@
...
+/-- Insert `x` into a sorted list using comparison queries. -/
+@[expose] def orderedInsert (x : α) : List α → FreeM (LEQuery α) (List α)
+  | [] => pure [x]
+  | y :: ys => do
+    let le ← LEQuery.ask x y
+    if le then
+      pure (x :: y :: ys)
+    else do
+      let rest ← orderedInsert x ys
+      pure (y :: rest)
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean:30]:
```suggestion
@[expose] def orderedInsert (x : α) : List α → FreeM (LEQuery α) (List α)
  | [] => return [x]
  | y :: ys => do
    let le ← LEQuery.ask x y
    if le then
      return (x :: y :: ys)
    else do
      let rest ← orderedInsert x ys
      return (y :: rest)
```
Stylistic change suggestion:

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 23 above)
Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/FreeM.lean:27]: This is fairly trivial. The scope for cheating is essentially "sneak in operations via pure". This is different from TimeM, where additionally the location and individual cost annotations can vary from place to place which can also cause problems. One must also ideally avoiding adding extraneous typeclass instances and choose Boolean propositions. 

This is however one form of "cheating" that I am not too worried about anymore. 

1. On the one hand, we do want pure operations when we don't care too much about their implementation details. This came up in my MPI talk. 

2. I have two ideas on how to eliminate pure operations based issues with model-level lower bound proofs entirely, in addition to model/input hiding. Can elaborate on Zulip if asked.

Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: "sneak in operations via pure" misunderstands the basic premise: the oracle is what is tracking costs, and work under "pure" can't access the oracle.

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: To give a different perspective on what @kim-em says. Let's say you write a sorting algorithm with a `cmp` query. A model of this query type would interpret the `cmp` query with a comparison operation `le` that is only supplied when the model is specified. Your correctness theorem must now be correct against any valid model (i.e. a model with a valid `le` ordering relation). You don't have access to this `le` when defining the `Prog`. So if you use an existing sorting procedure, it would necessarily have to use a known ordering relation and could/would fail against a valid, but adversarially supplied, `le` against which you prove correctness. The only way to beat an adversarially chosen `le` is to use `cmp` in your `Prog`.

EDIT: more briefly : you are typically proving correctness of a Prog uniformly over the family of correct models. Thus an adversary can choose any model from this family and you're still correct. To accomplish this you need to use the provided query type. If you instead use pure computations, you only get "correctness" against one of them, and that's not a proof of correctness in this model (exception in the next comment).

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: Note that there are some edge cases where this argument won't work. For example if you have a determinant query and lawful models are those impose the axioms of the determinant, then the argument doesn't hold since these axioms uniquely define a determinant function. So you can use existing pure determinant functions. 

EDIT: If your family of models is a singleton, then this approach _could_ permit "cheating"

File: Cslib/Algorithms/Lean/Query/Sort/LEQuery.lean (hunk 14 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/LEQuery.lean]: :robot: says: Fixed in 6fdf909: LEQuery.ask and the arithmetic query wrappers are now abbrevs over FreeM.lift.

File: Cslib/Algorithms/Lean/Query/Prog.lean (hunk 8 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Prog.lean]: :robot: says: Fixed in 3b93bad: eval, cost, and countQueries are defined through FreeM.liftM.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean (hunk 18 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean]: :robot: says: Fixed in 6fdf909: LEQuery.ask is now an abbrev, and the explicit unfolding in this proof is gone.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean (hunk 26 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: :robot: says: Fixed in 6fdf909: orderedInsert now follows the suggested return-based style.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean (hunk 25 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean]: :robot: says: Fixed in 6fdf909: the sorting definitions now use return consistently.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean (hunk 17 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean]: :robot: says: Fixed in 6fdf909: LEQuery.ask is now an abbrev, and the explicit unfolding in this proof is gone.

File: Cslib/Algorithms/Lean/Query/QueryTree.lean (hunk 10 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/QueryTree.lean]: :robot: says: Fixed in b46a156: QueryTree and its bridge were deleted, and the lower-bound lemma now works directly on FreeM.

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 12 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: :robot: says: Fixed in 3b93bad: eval now uses pure and Id.run around the FreeM.liftM interpretation.

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 15 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: :robot: says: Fixed in 6fdf909: queriesOn has been renamed to countQueries throughout.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean (hunk 21 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean]: :robot: says: Fixed in 6fdf909: evaluation is bridged to List.orderedInsert and List.insertionSort, and the existing Mathlib correctness theorems replace the custom proofs.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean (hunk 16 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean]: :robot: says: Fixed in 6fdf909: LEQuery.ask is now an abbrev, and the explicit unfolding in this proof is gone.

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 20 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: :robot: says: Fixed in 6fdf909: cost is now polymorphic over an arbitrary additive monoid.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean (hunk 24 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean]: :robot: says: Fixed in 6fdf909: the module documentation now explains that split is structurally recursive, while mergeSort uses a separate length-based termination argument.

File: Cslib/Algorithms/Lean/Query/Arith/Lemmas.lean [hunk 27]
```diff
@@ -0,0 +1,77 @@
...
+
+open Cslib.Query
+
+public section
+
+namespace Cslib.Query
+
+variable {α : Type}
+
+-- ## Correctness
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Arith/Lemmas.lean]: These should presumably be `/-!` comments? Same for all the other files.

File: Cslib/Algorithms/Lean/Query/Arith/Lemmas.lean [hunk 28]
```diff
@@ -0,0 +1,77 @@
...
+    (c_add c_mul : Nat) (a b c d : α) :
+    (complexMulGauss a b c d).cost oracle (ArithQuery.weight c_add c_mul) ≤
+      (complexMulNaive a b c d).cost oracle (ArithQuery.weight c_add c_mul) ↔
+        3 * c_add ≤ c_mul := by
+  rw [complexMulGauss_cost, complexMulNaive_cost]
+  omega
+
+end Cslib.Query
+
+end -- public section
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Arith/Lemmas.lean]: Is this really good style? Same question throughout

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean [hunk 29]
```diff
@@ -0,0 +1,137 @@
...
+  simpa only [horacle, decide_eq_true_eq] using hxs.orderedInsert x xs
+
+theorem insertionSort_sorted
+    (r : α → α → Prop) [DecidableRel r] [Std.Total r] [IsTrans α r]
+    (oracle : {ι : Type} → LEQuery α ι → ι)
+    (horacle : ∀ a b, oracle (.le a b) = decide (r a b))
+    (xs : List α) :
+    ((insertionSort xs).eval oracle).Pairwise r := by
+  rw [eval_insertionSort]
+  simpa only [horacle, decide_eq_true_eq] using List.pairwise_insertionSort r xs
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean]: I'd suggest dropping these; `eval_insertionSort` proves the only thing we care about, that this _is_ the insertion sort operation. We can extend the docstring on `eval_insertionSort` to justify the omission of these if that makes my case more compelling.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean [hunk 30]
```diff
@@ -0,0 +1,137 @@
...
+
+-- ## UpperBound and IsSort instances
+
+public theorem insertionSort_upperBound :
+    UpperBound (insertionSort (α := α)) List.length (· ^ 2) := by
+  intro oracle n x hle
+  exact Nat.le_trans (insertionSort_countQueries_le oracle x)
+    (Nat.pow_le_pow_left hle 2)
+
+public theorem insertionSort_isSort : IsSort (insertionSort (α := α)) where
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean]: Why `public theorem` if this is a `public section` already?

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean [hunk 31]
```diff
@@ -0,0 +1,98 @@
...
+-/
+
+open Cslib Cslib.Query
+
+public section
+
+namespace Cslib.Query
+
+/-- Split a list into two halves by alternating elements. -/
+@[expose] def split : List α → List α × List α
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean]: This should probably mention that this is different from `List.MergeSort.Internal.splitInTwo`, and is motivated by making the proof simpler.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean [hunk 32]
```diff
@@ -0,0 +1,98 @@
...
+    omega
+
+theorem split_snd_length_eq : ∀ (xs : List α),
+    (split xs).2.length = xs.length / 2
+  | [] => by simp [split]
+  | [_] => by simp [split]
+  | _ :: _ :: zs => by
+    simp only [split_cons_cons, List.length_cons]
+    have := split_snd_length_eq zs
+    omega
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean]: I'd suggest `@[simp]` for these.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean [hunk 33]
```diff
@@ -0,0 +1,98 @@
...
+
+theorem split_fst_length_lt (x y : α) (zs : List α) :
+    (split (x :: y :: zs)).1.length < (x :: y :: zs).length := by
+  simp only [split_fst_length_eq, List.length_cons]; omega
+
+theorem split_snd_length_lt (x y : α) (zs : List α) :
+    (split (x :: y :: zs)).2.length < (x :: y :: zs).length := by
+  simp only [split_snd_length_eq, List.length_cons]; omega
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean]: These theorems look pretty contrived to me, can we inline them where they're used, or at least make them `private`?

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean [hunk 34]
```diff
@@ -0,0 +1,266 @@
...
+theorem split_perm : ∀ (xs : List α),
+    ((split xs).1 ++ (split xs).2).Perm xs
+  | [] => List.Perm.refl _
+  | [_] => List.Perm.refl _
+  | x :: y :: zs => by
+    simp only [split_cons_cons]
+    show ((x :: (split zs).1) ++ (y :: (split zs).2)).Perm (x :: y :: zs)
+    rw [List.cons_append]
+    refine List.Perm.cons _ ?_
+    -- goal: ((split zs).1 ++ y :: (split zs).2).Perm (y :: zs)
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean]: This should either be a `show` or be dropped.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean [hunk 35]
```diff
@@ -0,0 +1,266 @@
...
+public section
+
+namespace Cslib.Query
+
+variable {α : Type}
+
+-- ## Split lemmas
+
+theorem split_perm : ∀ (xs : List α),
+    ((split xs).1 ++ (split xs).2).Perm xs
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean]: nit: consider using the perm notation.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean [hunk 36]
```diff
@@ -0,0 +1,266 @@
...
+  | [] => List.Perm.refl _
+  | [_] => List.Perm.refl _
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean]: nit: drop the `List.Perm` prefix

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean [hunk 37]
```diff
@@ -0,0 +1,266 @@
...
+/-- If `l` is a permutation of `xs ++ ys`, and `r a` holds for all elements of `xs` and `ys`,
+    then `r a` holds for all elements of `l`. -/
+private theorem forall_mem_of_perm_append {r : α → Prop} {l xs ys : List α}
+    (hperm : l.Perm (xs ++ ys))
+    (hxs : ∀ z ∈ xs, r z) (hys : ∀ z ∈ ys, r z) :
+    ∀ z ∈ l, r z := by
+  intro z hz
+  rcases List.mem_append.mp (hperm.mem_iff.mp hz) with h | h
+  · exact hxs z h
+  · exact hys z h
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean]: Does `grw` know how to use `hperm.mem_iff` in this way?

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 38]
```diff
@@ -0,0 +1,277 @@
...
+whose every response type is finite of cardinality at most `r`, then some oracle makes
+at least `⌈log_r n⌉` queries.
+
+This is the core combinatorial lemma for query complexity lower bounds. The proof uses
+the adversarial/partition argument: at each query node, the `n` oracles split by their
+answer; the largest group (size ≥ ⌈n/r⌉) still produces distinct results in the
+corresponding subtree, and the induction proceeds there. -/
+theorem exists_countQueries_ge_clog (r : Nat)
+    (h_fin : ∀ {ρ : Type}, F ρ → Fintype ρ)
+    (h_card : ∀ {ρ : Type} (op : F ρ), @Fintype.card ρ (h_fin op) ≤ r)
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/FreeM.lean]: Do we need this `Fintype` instance, or can we instead use `Nat.card` or `Cardinal.mk`?

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 39]
```diff
@@ -0,0 +1,277 @@
...
+and the largest fiber still produces distinct results in the corresponding subtree.
+-/
+
+public section
+
+open Cslib.Algorithms.Lean (TimeM)
+
+namespace Cslib.FreeM
+
+variable {F : Type → Type} {α β : Type}
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/FreeM.lean]: Shouldn't this be (more) universe polymorphic?

**Review by eric-wieser — CHANGES_REQUESTED** [review]
Please update the PR description, it currently refers to an approach and filenames which don't exist.

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 39 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: 2a83ed9b3fa968a89e80a164082defb94c497a17

File: Cslib/Algorithms/Lean/Query/QueryTree.lean (hunk 10 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/QueryTree.lean]: :robot: says: Fixed in b46a156: QueryTree and its bridge were deleted, and the lower-bound lemma now works directly on FreeM.

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 12 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: :robot: says: Fixed in 3b93bad: eval now uses pure and Id.run around the FreeM.liftM interpretation.

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 15 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: :robot: says: Fixed in 6fdf909: queriesOn has been renamed to countQueries throughout.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean (hunk 17 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean]: :robot: says: Fixed in 6fdf909: LEQuery.ask is now an abbrev, and the explicit unfolding in this proof is gone.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean (hunk 21 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean]: :robot: says: Fixed in 6fdf909: evaluation is bridged to List.orderedInsert and List.insertionSort, and the existing Mathlib correctness theorems replace the custom proofs.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean (hunk 25 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean]: :robot: says: Fixed in 6fdf909: the sorting definitions now use return consistently.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean (hunk 26 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: :robot: says: Fixed in 6fdf909: orderedInsert now follows the suggested return-based style.

File: Cslib/Algorithms/Lean/Query/Sort/LEQuery.lean (hunk 14 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/LEQuery.lean]: :robot: says: Fixed in 6fdf909: LEQuery.ask and the arithmetic query wrappers are now abbrevs.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean (hunk 16 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Lemmas.lean]: :robot: says: Fixed in 6fdf909: LEQuery.ask is now an abbrev, and the explicit unfolding in this proof is gone.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean (hunk 18 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Merge/Lemmas.lean]: :robot: says: Fixed in 6fdf909: LEQuery.ask is now an abbrev, and the explicit unfolding in this proof is gone.

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 20 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: :robot: says: Fixed in 6fdf909: cost is now polymorphic over an arbitrary additive monoid.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean (hunk 24 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean]: :robot: says: Fixed in 6fdf909: the module documentation now explains the recursion structure: the alternating split is structurally recursive (no well-founded recursion on `List.length`), while `mergeSort`'s own recursive calls are justified separately using lengths.

File: Cslib/Algorithms/Lean/Query/Prog.lean (hunk 8 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Prog.lean]: :robot: says: Fixed in 3b93bad: eval, cost, and countQueries are defined as liftM interpretations into target monads, so everything goes through the universal property rather than pattern matching on the free monad.

**Comment by Shreyas4991** [comment]
The PR description is still inaccurate. The "monad parametric approach" of #376 has fully disappeared. It is now purely #372 rehashed in slightly different words, including the lower bound proof which came in my PR first, though both model and input hiding go back to Knuth. 

The latest iteration is at #685. I don't think this PR influenced mine in any way since my content was in-place before this PR, but I like that it established that my idea is solid by converging to it almost exactly. 

@sgraf812 could you help confirm please. Ref #685.

File: Cslib/Algorithms/Lean/Query/Sort/LowerBound.lean [hunk 40]
```diff
@@ -0,0 +1,161 @@
...
+    preceding all others, and a well-ordering among non-embedded elements. -/
+private noncomputable def infinitePermOrder [Infinite α] (n : Nat)
+    (σ : Equiv.Perm (Fin n)) (a b : α) : Prop :=
+  if ha : ∃ i : Fin n, (Infinite.natEmbedding α) i.val = a then
+    if hb : ∃ j : Fin n, (Infinite.natEmbedding α) j.val = b then
+      σ.symm ha.choose ≤ σ.symm hb.choose
+    else True
+  else
+    if _ : ∃ j : Fin n, (Infinite.natEmbedding α) j.val = b then False
+    else @LE.le α (IsWellOrder.linearOrder (α := α) WellOrderingRel).toLE a b
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/LowerBound.lean]: I suspect this falls out more simply as
```
private noncomputable def Infinite.peelPrefix [Infinite α] (a : α) : Fin n ⊕ α :=
  open scoped Classical in
  if ha : ∃ i : Fin n, (Infinite.natEmbedding α) i.val = a then
    .inl ha.choose
  else
    .inr a

private noncomputable def infinitePermOrder [Infinite α] (n : Nat)
    (σ : Equiv.Perm (Fin n)) (a b : α) : Prop :=
  letI := IsWellOrder.linearOrder (α := α) WellOrderingRel
  Sum.Lex (σ.symm · ≤ σ.symm ·) (· ≤ ·) (Infinite.peelPrefix a) (Infinite.peelPrefix b)
```

**Comment by Shreyas4991** [comment]
`countQueries` is redundant. It is just `cost` with `Nat` type and an increment of 1 per query. 

evaluation and costs should be bundled, since, together they constitute a computational model. Models can be reduced to other models by `Prog`s

**Comment by Shreyas4991** [comment]
Another mistake in the descr : 

> This makes the framework suitable for query complexity, rather than general runtime analysis through explicit TimeM instrumentation.

The query combinator approach 
 allows as much structured general runtime analysis as TimeM. Unstructured (improperly ticked) use of TimeM is dangerous anyway. For algorithms and complexity there is no meaningful algorithm one could write in TimeM that one couldn't in Prog.

**Comment by Shreyas4991** [comment]
> Parametricity alone is not sufficient if the same operations are also available directly through typeclass instances or other definitions

Not quite true. You can state correctness uniformly over a family of correct models. This is possible if this family of models is not a singleton and if different models may produce different outputs, as happens with sorting. It fails when the correct model is uniquely defined (as in determinants). 

That being said, proving uniform correctness over a family of models is a bit overkill.

File: Cslib/Algorithms/Lean/Query/Sort/LowerBound.lean (hunk 40 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Query/Sort/LowerBound.lean]: I cleaned this up in 87278460d43be1b8485855c7e872857f2c7386db.

File: Cslib/Algorithms/Lean/Query/FreeM.lean [hunk 41]
```diff
@@ -0,0 +1,276 @@
...
+
+/-! ## Combinatorial lower bound -/
+
+section LowerBound
+
+/-- Finset-based version: if the oracles indexed by `S` produce `|S|`-many distinct
+    evaluation results, then some oracle in `S` makes at least `⌈log_r |S|⌉` queries. -/
+private theorem exists_mem_countQueries_ge_clog (r : Nat)
+    (h_fin : ∀ {ρ : Type u}, F ρ → Finite ρ)
+    (h_card : ∀ {ρ : Type u}, F ρ → Nat.card ρ ≤ r)
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/FreeM.lean]: Thoughts on using `#ρ ≤ r` here? That seems a little easier than passing two separate arguments.

File: Cslib/Algorithms/Lean/Query/Arith/Defs.lean (hunk 9 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Query/Arith/Defs.lean:25]: I don't think a `0` and `1` are useful here, it would be strange to allocate them a cost.

**Review by eric-wieser — DISMISSED** [review]
I'm reasonably happy with this now, though let's wait for discussion to stop in the CSLib reviewer channel before finally merging.

**Comment by Shreyas4991** [comment]
> I'm reasonably happy with this now, though let's wait for discussion to stop in the CSLib reviewer channel before finally merging.

@eric-wieser I was told there would be a discussion comparing #685 and #401 involving me. Why is it that this PR is being merged directly. It is still suboptimal in design. I have waited ~~two~~ three months for said discussion. 

This was discussed in the cslib meetings. 
Cc: @arademaker and @fmontesi 

For the record I maintain that #685 should be merged. This PR (401) has done a good job of performing what amounts to a shallow copy of my work.  However  #372 (and #685) makes better design choices and has been battle tested. It has a better downstream track record.  

It is also extremely dishonest to claim that subsequent reviews have improved it over #372. At best it is an inadequate approximation, with some minor changes that can be PRed back to #685 (successor of #372 which contains this PR's history, and was made at the maintainers' request).

**Comment by Shreyas4991** [comment]
Additionally I wish to note that in any sensible open source project that respects its contributors, a PR with this much overlap with a prior PR would be closed as a duplicate PR. The contributor would be asked to build on top of existing work. Senior members in particular wouldn’t scoop the work of junior members (with/without AI) 


Even Google's AI knows this. I am sure a Claude user can figure this out : 

https://share.google/aimode/h7o10KNuBhufnoDM0

File: Cslib/Algorithms/Lean/Query/FreeM.lean (hunk 41 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/FreeM.lean]: Done in 0bd0e2a.

File: Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean [hunk 42]
```diff
@@ -16,24 +16,38 @@ open Cslib Cslib.Query
...
       return (x :: y :: ys)
     else do
-      let rest ← orderedInsert x ys
+      let rest ← orderedInsertM x ys
       return (y :: rest)
 
-/-- Sort a list using insertion sort with comparison queries. -/
-@[expose] def insertionSort : List α → FreeM (LEQuery α) (List α)
+/-- Sort a list using insertion sort with monadic comparisons. -/
+@[expose] def insertionSortM : List α → m (List α)
```
Comment (Shreyas4991) [inline Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: What monad are you planning to use other than free monads?

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: Same goes for all these changes.

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: This change you are applying you could be used to rewrite all monadic functions in all of lean and mathlib, including tactic monads and tactics in a monad polymorphic way. That doesn't mean one should. This is the design used by so-called mtl style transformers. It doesn't add anything meaningful here.

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: Another point : This doesn't scale for large and composite query models.  It results in redundancy in parameters [Explained here on zulip](https://leanprover.zulipchat.com/#narrow/channel/513188-CSLib/topic/Algorithmic.20Frameworks.20.28cslib.23372.20.2F.20cslib.23685.2C.20cslib.23401.29/near/621526186)

Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: > What monad are you planning to use other than free monads?

`Id` and `PFunctor.FreeM` are two natural choices; but you could equally do something silly like `IO` for a game where you ask the human to do the comparison, or perhaps some kind of `LogM` monad that records the comparisons as they happen.

Of course you can get here by starting with something in `FreeM` and using `liftM`, but my guess is that Lean's compiler cannot optimize this to anywhere near the same extent.

The actual motivation for this is to:
* present a pattern that allow algorithms to be written without CSLib, but then have their complexity proved downstream in CSLib
* allow monad-generic implementations to be proved lawful, in the sense that they are preserved under `IsMonadHom` (#856).

Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: > This change you are applying you could be used to rewrite all monadic functions in all of lean and mathlib,

See `List.find`/`List.findM`, `List.any`/`List.anyM`, etc; there is lots of precedent for already doing this.

> including tactic monads and tactics in a monad polymorphic way

To some extend the functions written with `[MonadEnv m]` instead of `CoreM` are also opting into this pattern.

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: The problem is once you have large and composite models, you have to pass and instantiate dozens of arguments. This will show up when you have RAM-related query models and many-data-structure algorithms

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: Transitioning to PFunctor.FreeM is much simpler since PFunctor.FreeM generalizes FreeM. You just need to replace the API of PFunctor.FreeM and provide suitable abbrevs for translating the latter to the former. This can be done transparently without affecting downstream code.

Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: > The problem is once you have large and composite models, you have to pass and instantiate dozens of arguments.

This can be solved with something like
```lean
structure MyInterface where
  pushQueue (a : A) : m Unit
  popQueue : m (Option A)
  cmp : A -> A -> m Bool
  
def myAlgorithm (i : MyInterface A) : m (List A) := ...
```

This is of course one extra layer of indirection. If you strictly only care about proving complexity properties, then of course you can skip striaght to FreeM. If there is a chance that you want to actually compile your code, I expect there are performance benefits to bypassing FreeM.

You could imagine a `@[to_query]` decorator that builds a query inductive automatically from `MyInterface` to minimize the friction of this extra layer.

Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: > Transitioning to PFunctor.FreeM is much simpler since PFunctor.FreeM generalizes FreeM.

I'd encourage you to start a Zulip thread comparing these. As I understand it, there are queries in FreeM that have no representation in PFunctor.FreeM and vice versa. I think this is not well-explained by the current docstring of `PFunctor.FreeM`, and it would be great to construct contrived or even plausible examples of each.

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: It's not true though. 
1. FreeM and this MTL style approach are actually complementary. They are both separately used to compose multiple effects to achieve effectful programming.
2.  Secondly to construct the interface, you would compose an existing queue type, an existing stack type, and an existing fibonacci heap type using direct sums, and use the composition lemmas for these. Writing a bespoke structure means we can't directly use those lemmas.

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: > > Transitioning to PFunctor.FreeM is much simpler since PFunctor.FreeM generalizes FreeM.
> 
> I'd encourage you to start a Zulip thread comparing these. As I understand it, there are queries in FreeM that have no representation in PFunctor.FreeM and vice versa. I think this is not well-explained by the current docstring of `PFunctor.FreeM`, and it would be great to construct contrived or even plausible examples of each.

Michael Sammler already explained how PFunctor.FreeM can express everything FreeM can but not vice versa. Quang Dao corrected it:

https://leanprover.zulipchat.com/#narrow/channel/513188-CSLib/topic/Free.20monad.20over.20a.20polynomial.20functor/near/584202846

Comment (kim-em) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: @eric-wieser, f6d8269

Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/Query/Sort/Insertion/Defs.lean]: I wish to note that Eric and I discussed on Zulip that this change is orthogonal to the query combinator model and has been refactored to #861. Further we discussed that this change is of no use to algorithmic theory. 

Given the amount of misunderstanding expressed by several people about this framework, this content only serves to obfuscate the above points to maintainers.

**Comment by Shreyas4991** [comment]
@eric-wieser I would be grateful for similar deduplication commits on #685 to ensure proper comparability. 

Minor follow up work cannot be normally used to justify denying credit and stewardship of an approach in an open source project when a follow up PR such as this fundamentally copies the design of an earlier in-progress PR. At least  as far as ethical standards are concerned.

But it might still be better to have parity of support from the official side. 

EDIT : The **approval** was accidental.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean [hunk 43]
```diff
@@ -0,0 +1,78 @@
...
+  | [x] => return [x]
+  | x :: y :: zs => do
+    let halves := split (x :: y :: zs)
+    let sl ← mergeSortM' halves.1
+    let sr ← mergeSortM' halves.2
+    mergeM sl sr cmp
+termination_by xs.length
+decreasing_by
+  · simp only [split_fst_length_eq, List.length_cons]; omega
+  · simp only [split_snd_length_eq, List.length_cons]; omega
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean]: Ideally we would delete these too. The main inconvenience in doing so is that we need to replace `List.split` with `List.MergeSort.Internal.splitInTwo` in the theorem statements, which leads to quite a long goal state.

File: CslibTests/QueryMonadicStyle.lean [hunk 44]
```diff
@@ -1,82 +0,0 @@
...
-variable {α : Type}
-
-/-- Evaluation against an oracle is a monad morphism to `Id`, so by naturality the
-`Id` instantiation of the generic program is the evaluation of the query program. -/
-theorem insertionSortM_eval (oracle : {ι : Type} → LEQuery α ι → ι) (xs : List α) :
-    (insertionSort xs).eval oracle =
-      xs.insertionSortM (m := Id) fun a b => oracle (.le a b) :=
-  List.insertionSortM_naturality (m := FreeM (LEQuery α)) (n := Id)
-    (fun {_} p => FreeM.eval oracle p)
-    (fun _ => rfl) (fun x f => FreeM.eval_bind oracle x f) _ xs
```
Comment (eric-wieser) [inline CslibTests/QueryMonadicStyle.lean]: @kim-em, I deleted this because it was type-incorrect due to defeq abuse of `Id`.

File: Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean [hunk 45]
```diff
@@ -0,0 +1,72 @@
...
+
+theorem splitInTwo_fst (xs : {l : List α // l.length = n}) :
+    (List.MergeSort.Internal.splitInTwo xs).1 = xs.val.split.1 := by
+  simp [split, xs.prop]
+
+theorem splitInTwo_snd (xs : {l : List α // l.length = n}) :
+    (List.MergeSort.Internal.splitInTwo xs).2 = xs.val.split.2 := by
+  simp [split, xs.prop]
+
+end List
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Query/Sort/Merge/Defs.lean:60]: @kim-em, should we just replace `splitInTwo` with this upstream? I think the previous design was for a much worse termination checker.
